US08455479B2
To a stirred solution of {4-[3-tert-butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-butyryl]-2-oxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl}-acetic acid methyl ester (90 mg, 0.16 mmol) in THF (2 mL) and water (2 mL), was added lithium hydroxide (40 mg, 0.95 mmol). The reaction mixture was stirred at r.t. overnight. After the completion of the reaction as confirmed by TLC, the reaction mixture was cooled to 0° C. and neutralized with 10% HCl solution and the pH was adjusted to 1. The crude compound was extracted with ethylacetate (10 mL). The organic layer was washed with water, dried over Na2SO4. The solvents were removed in vacuo to afford {4-[3-tert-butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-butyryl]-2-oxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl}-acetic acid (70 mg, 82%) as a viscous oil.

reactant | {4-[3-tert-butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-butyryl]-2-oxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl}-acetic acid methyl ester | 0.16 mmol, 90 mg | COC(CN1C(CN(CC2=C1C=CC=C2)C(CC(CC2=C(C=C(C(=C2)F)F)F)NC(=O)OC(C)(C)C)=O)=O)=O | C27H30F3N3O6
reactant | lithium hydroxide | 0.95 mmol, 40 mg | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | {4-[3-tert-butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-butyryl]-2-oxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl}-acetic acid | 70 mg, 82% | C(C)(C)(C)OC(=O)NC(CC(=O)N1CC(N(C2=C(C1)C=CC=C2)CC(=O)O)=O)CC2=C(C=C(C(=C2)F)F)F | C26H28F3N3O6
